Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
aspirin / atenolol / codeine / eggs / niacin / pregabalin / 
tramadol / ___ extract / ramipril
 
Attending: ___.
 
Chief Complaint:
Fall from standing
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Per patient, she was standing and drinking a cup of coffee. The 
next thing she remembers is "falling to the ground"; she denies 
preceding symptoms including lightheadedness/dizziness, 
palpitations, shortness of breath. She thinks she "blacked out". 
She was transported to ___ ER, where evaluation was concerning 
for left frontal SDH and L wrist fracture, prompting transfer to 
___.  

 On transfer, she was evaluated by ___ who recommended 
non-operative management including continuation of her home 
keppra, holding anticoagulation, and ongoing monitoring. She was 
evaluated by Ortho who noted her L hip, which she had recently 
fractured, had a small surrounding hematoma and recommended she 
could be weight bearing as tolerated. They also evaluated her L 
wrist fracture and recommended casting as well as ongoing 
monitoring. Following stabilization of her acute injuries, the 
decision was made to transfer to Medicine for ongoing work-up of 
her syncope/fall.  
 
 Of note, patient has had x2 recent falls; the first was approx. 
2 months ago at home from standing and she was evaluated at 
___ where she was found to have fractured her 
collarbone. She spent x1 month in rehab, which per her family 
was very traumatic for her and she received little to no rehab 
and spent >20h/day in bed. She then went back home when she fell 
in the middle of the ___ and presented to ___, where she 
was noted to have a left hip fracture. Her hospital course at 
___ was complicated by anemia, thought to be ___ to iron 
deficiency, and she received 1u PRBC and was started on iron 
supplementation. She was again discharged to rehab. She was at 
home for x1 week prior to her recurrent fall.  

 Per patient's son, she is very stubborn and does not often 
listen to medical advice. For example, she has 16H/day care and 
is not supposed to walk around without them, however she 
continues to do so. He also reports that she often does not tell 
the truth regarding her medical history. He says they recently 
started seeing a new Neurologist at ___ (Dr. 
___, but she has not had any new medication changes. He 
reports that, due to her history of GIB, she did not receive 
anticoagulation following her recent fractures. The family has 
been discussing whether or not she is safe to return to her ALF, 
however are concerned about the mental burden of having her go 
back to rehab since her recent experience was so traumatic
 
Past Medical History:
Past Medical History
 Meningioma  
 ___  
 Dementia  
 Gastritis complicated by GIB  
 Afib  
 HTN  
 HLD  
 Hypothyroidism 

Past Surgical History: cholecystectomy (per patient)
 
Social History:
___
Family History:
Reviewed.  None pertinent to this hospitalization
 
Physical Exam:
Upon admission:
Physical Exam:
Vitals: 98.7 68 136/82 16 100% RA 
GEN: A&Ox2, NAD
HEENT: Left lateral head tenderness
CV: IRIR
PULM: No chest wall tenderness, NRD
ABD: Soft, nondistended, nontender, no rebound or guarding,
Ext: LUE in splint. SILT R/U, full motor function of LUE. LLE
point tenderness over L hip. ___ warm and well perfused

Upon discharge:
VS: 97.6 93/59 63 18 95% RA  
Gen: thin, elderly Caucasian woman resting in chair in no acute 
distress  
HEENT: (+) small ecchymoses on left lateral forehead with min 
assoc TTP, PERRL, EOMI. OP clear    
CV: irregularly irregular, (+)S1, S2  
Lungs: CTAB  
Abd: soft, ND/NT, (+)BS  
Extrem: L hip with TTP, decreased flexion, L wrist wrapped in 
cast although patient able to move LUE without difficulty. 
Distal pulses palpable, ___  
Neuro: AAOx3, slow to respond  
 
Pertinent Results:
ADMISSION LABS
==============
___ 03:50PM BLOOD WBC-7.8 RBC-3.87* Hgb-10.0* Hct-33.1* 
MCV-86 MCH-25.8* MCHC-30.2* RDW-27.0* RDWSD-78.9* Plt ___
___ 03:50PM BLOOD Neuts-77.9* Lymphs-11.1* Monos-8.9 
Eos-0.9* Baso-0.8 Im ___ AbsNeut-6.06 AbsLymp-0.86* 
AbsMono-0.69 AbsEos-0.07 AbsBaso-0.06
___ 03:50PM BLOOD ___ PTT-27.4 ___
___ 03:50PM BLOOD Glucose-101* UreaN-14 Creat-0.6 Na-139 
K-3.7 Cl-103 HCO3-25 AnGap-15
___ 06:10AM BLOOD Calcium-8.3* Phos-3.6 Mg-1.9

PERTINENT/DISCHARGE LABS
========================
___ 07:28AM BLOOD calTIBC-247* Ferritn-98 TRF-190*
___ 06:05AM BLOOD WBC-4.9 RBC-3.42* Hgb-9.2* Hct-29.3* 
MCV-86 MCH-26.9 MCHC-31.4* RDW-26.6* RDWSD-77.8* Plt ___
___ 06:05AM BLOOD Glucose-88 UreaN-10 Creat-0.7 Na-139 
K-3.3 Cl-101 HCO3-30 AnGap-11
___ 06:05AM BLOOD Calcium-8.3* Phos-2.8 Mg-1.9
___ 03:25AM URINE Color-Straw Appear-Hazy Sp ___
___ 03:25AM URINE Blood-TR Nitrite-POS Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-LG
___ 03:25AM URINE RBC-4* WBC-77* Bacteri-FEW Yeast-NONE 
Epi-5

MICROBIOLOGY
============
URINE CULTURE (Preliminary): 
     ESCHERICHIA COLI.    >100,000 CFU/mL.  PRESUMPTIVE 
IDENTIFICATION.

IMAGING
======= 
CT PELVIS ___:
Comminuted, displaced fracture of the greater trochanter of the 
left femur, with large surrounding hematoma measures up to 
approximately 15 cm.  No prior study available for comparison. 

CT HEAD W/O CONTRAST ___:
Small left anterior frontal temporal subdural hemorrhage 
measures at most 2.5 mm without significant mass effect.  No 
additional intracranial hemorrhage. 
Linear hyperdensity in the left frontal lobe appears to be 
mineralization, 
without mass effect.  Hypodensity within the adjacent white 
matter is noted, correlate with history of prior insult at this 
site.  Comparison with prior head CT obtained before this day 
would be helpful. 

SHOULDER PLAIN FILM ___:
No fracture or dislocation.

___ 3:25 am URINE      Source: ___. 

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      Culture workup discontinued. Further incubation showed 
contamination
      with mixed skin/genital flora. Clinical significance of 
isolate(s)
      uncertain. Interpret with caution. 
      ESCHERICHIA COLI.    >100,000 CFU/mL.  PRESUMPTIVE 
IDENTIFICATION. 
         OF TWO COLONIAL MORPHOLOGIES. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             ESCHERICHIA COLI
                             |   
AMPICILLIN------------  =>32 R
AMPICILLIN/SULBACTAM--    16 I
CEFAZOLIN-------------     8 R
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
NITROFURANTOIN--------  <=16 S
PIPERACILLIN/TAZO-----     8 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----   <=1 S

 
Brief Hospital Course:
___ F with medical history notable for meningioma, ___ 
disease, dementia, recurrent falls w/recent admission to ___ for 
fall complicated by hip fracture (___) who presented to ___ on 
___ after a fall from standing transferred to ___ for 
management of L frontal temporal SDH (non-operable), L wrist 
fracture (non-operable). She was originally admitted to the 
surgery service, then transferred to medicine for further work 
up of her fall. The follow issues were addressed:

#S/p fall: Patient describes a mechanical-type fall from 
standing, although she has a history of possible seizures in the 
setting of her known meningioma vs worsening ataxia secondary to 
___. Orthostatic vital signs were negative. TTE, EEG 
were not obtained given low concern for cardiac or neurogenic 
syncope. Geriatrics was consulted for optimization of fall risk 
prior to discharge. They made several recommendations including: 
weaning Clonazepam, changing PPI to once daily, and using 
monofocal lenses as opposed to bifocals.

# Urinary tract infection. UA obtained as part of 
toxic-metabolic work-up, returned with ___, nitrites. On further 
questioning, pt does admit to some dysuria. She was treated with 
3 days Ceftriaxone. Urine culture grew E coli, sensitive to CTX.

# Left frontal subdural hematoma: CT scan on ___ notable for 
2.5mm L frontotemporal SDH. She was evaluated by Neurosurgery on 
transfer from OSH, deemed to be non-operable. Does not need 
Neurosurgery follow up. 

# Left wrist fracture: Per Orthopedics: non-operable, continue 
non-weight bearing LUE in splint  

# Left hip fracture: Per Orthopedics, should be weight bearing 
as tolerated in left lower extremity (L hip CT shows L 
comminuted femur fx w/ surrounding hematoma). 

# Anemia: Normocytic, with no evidence of active bleed. Thought 
to be ___ iron deficiency per OSH records, recently started on 
supplementation. Iron studies checked this admission showed 
ferritin 98. Likely she has mixed iron deficiency/anemia of 
chronic disease.

# ___ disease: Continued Carbidopa-Levodopa (___) QID 
 

# Meningioma: Continued keppra 1500mg BID  

# HLD: Continued rosuvastatin  

***Transitional issues***
- diagnosed with subacute subdural hematoma on head CT. Continue 
home Keppra, does not require further neurosurgery follow up 
- will follow up in hand clinic in ___ regarding distal radius 
fracture 
- would recommend single focal lenses as opposed to bifocals to 
help reduce fall risk 
- should discuss evaluation and treatment for likely 
osteoporosis in the setting of recurrent falls 
- clonazepam dose decreased during this hospitalization, would 
discuss discontinuing it if appropriate given patient's advanced 
age and fall risk 
- treated for uncomplicated UTI with 3 days of ceftriaxone
- would recommend obtaining old Neurology records for MMSE/MOCA 
to document decline in patient's mental/functional status
 
FULL CODE, time limited trial 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Calcium Carbonate 500 mg PO DAILY 
2. Carbidopa-Levodopa (___) 1 TAB PO QID 
3. Citalopram 10 mg PO DAILY 
4. ClonazePAM 0.25 mg PO QHS 
5. Vitamin D ___ UNIT PO DAILY 
6. Ferrous Sulfate 325 mg PO DAILY 
7. Klor-Con 10 (potassium chloride) 20 mEq oral DAILY 
8. LevETIRAcetam 1500 mg PO BID 
9. Levothyroxine Sodium 88 mcg PO DAILY 
10. Multivitamins 1 TAB PO DAILY 
11. Pantoprazole 40 mg PO Q12H 
12. Rosuvastatin Calcium 40 mg PO QPM 
13. Bisacodyl 10 mg PO/PR DAILY:PRN constipation 
14. Milk of Magnesia 30 mL PO DAILY:PRN constipation 
15. Acetaminophen 325 mg PO Q6H:PRN Pain - Mild 

 
Discharge Medications:
1.  Ramelteon 8 mg PO QHS:PRN insomnia  
2.  Acetaminophen 650 mg PO Q6H  
3.  ClonazePAM 0.25 mg PO QHS:PRN insomnia  
4.  Pantoprazole 40 mg PO Q24H  
5.  Bisacodyl 10 mg PO/PR DAILY:PRN constipation  
6.  Calcium Carbonate 500 mg PO DAILY  
7.  Carbidopa-Levodopa (___) 1 TAB PO QID  
8.  Citalopram 10 mg PO DAILY  
9.  Ferrous Sulfate 325 mg PO DAILY 
Must be taken 2 hours apart from Carbidopa-Levodopa  
10.  Klor-Con 10 (potassium chloride) 20 mEq oral DAILY  
11.  LevETIRAcetam 1500 mg PO BID  
12.  Levothyroxine Sodium 88 mcg PO DAILY  
13.  Milk of Magnesia 30 mL PO DAILY:PRN constipation  
14.  Multivitamins 1 TAB PO DAILY  
15.  Rosuvastatin Calcium 40 mg PO QPM  
16.  Vitamin D ___ UNIT PO DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY 
======= 
Fall 
Left radius fracture 
Left hip fracture 
Subdural hematoma 
Urinary tract infection, uncomplicated  
 
SECONDARY 
========== 
___ disease  
History of falls  
 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear Ms ___,

It was a pleasure taking care of you at ___ 
___.

You were in the hospital after you fell at home and suffered a 
broken wrist as well as a small bleed in your head. Neither of 
these required surgery. 

We believe you fell because you tripped. We do not think there 
was anything wrong with your heart that would make you fall. 
When you leave the hospital, it will be important for you to 
work with physical therapy to continue getting stronger. 

Best wishes,
Your ___ team
 
Followup Instructions:
___